US08791107B2
PREPARATION x71: (R)-2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-N-(2-methoxyethyl)acetamide
The title compound was prepared in a manner similar to PREPARATION x26 using (R)-2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)acetic acid (PREPARATION x25, 50 mg, 0.176 mmol), HATU (87 mg, 0.228 mmol), 2-methoxyethylamine (20 mg, 0.263 mmol) and triethylamine (0.073 mL, 0.527 mmol) in DMF (2 mL). ESI-MS m/z [M+H]+ calc'd for C14H20ClN6O3, 342.13. found 342.2.

reactant | (R)-2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)acetic acid | 0.176 mmol, 50 mg | ClC1=NC=2N3[C@H](CN(C2C=N1)CC(=O)O)COCC3 | C11H13ClN4O3
reactant | HATU | 0.228 mmol, 87 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-methoxyethylamine | 0.263 mmol, 20 mg | COCCN | C3H9NO
reactant | triethylamine | 0.527 mmol, 0.073 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-N-(2-methoxyethyl)acetamide | ClC1=NC=2N3[C@H](CN(C2C=N1)CC(=O)NCCOC)COCC3 | C14H20ClN5O3
